US07799797B2
3-[6-(3-Fluoro-benzenesulfonyl)-naphthalen-1-yl]-acrylic acid ethyl ester (2.0 g) was dissolved in a mixture of methanol (20 mL), acetic acid (20 mL) and EtOAc (50 mL) in a Parr vessel. Palladium on activated carbon (1.0 g, 10% Pd) was added, and the vessel was purged with nitrogen. The reaction mixture was stirred at room temperature under 60 atm (4.14 Bar) hydrogen for 18 hours. The vessel was purged with nitrogen, and the reaction mixture was removed and filtered through Celite. The filtrate was evaporated under reduced pressure to give 2.0 g of 3-[6-(3-fluoro-benzenesulfonyl)-naphthalen-1-yl]-propionic acid ethyl ester.

reactant | 3-[6-(3-Fluoro-benzenesulfonyl)-naphthalen-1-yl]-acrylic acid ethyl ester | 2.0 g | C(C)OC(C=CC1=CC=CC2=CC(=CC=C12)S(=O)(=O)C1=CC(=CC=C1)F)=O | C21H17FO4S
solvent | methanol | 20 mL | CO | CH4O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
catalyst | Palladium on activated carbon | 1.0 g | [Pd] | Pd
product | 3-[6-(3-fluoro-benzenesulfonyl)-naphthalen-1-yl]-propionic acid ethyl ester | 2.0 g | C(C)OC(CCC1=CC=CC2=CC(=CC=C12)S(=O)(=O)C1=CC(=CC=C1)F)=O | C21H19FO4S
